US07608631B2
Preparation of 5-chloro-3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-[1,2,4]oxadiazole
90 mg of 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-4H-[1,2,4]oxadiazol-5-one, 14 mg of pyridine and 0.2 ml of phosphorus oxychloride are stirred for 14 hours at 130° C. The reaction mixture is poured onto ice-water and extracted with ethyl acetate. Concentration of the organic phase and purification over silica gel yield the title compound (compound 1.16).

reactant | 3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-4H-[1,2,4]oxadiazol-5-one | 90 mg | ClC1=C(OCCCOC2=CC=C(C=C2)C2=NOC(N2)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C20H16Cl4N2O5
reactant | phosphorus oxychloride | 0.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 14 mg | N1=CC=CC=C1 | C5H5N
product | 5-chloro-3-(4-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-[1,2,4]oxadiazole | ClC1=NC(=NO1)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C20H15Cl5N2O4
